US09102591B2
(+)-2,3-Dichloro-N-(2-(2-(difluoromethyl)pyrimidin-5-yl)-3-(1-(trifluoromethyl)cyclopropyl)propyl)benzamide
The racemic mixture which was prepared in a similar manner to example 3a from 2,3-dichlorobenzoic acid and 2-(2-(difluoromethyl)pyrimidin-5-yl)-3-(1-(trifluoromethyl)cyclopropyl)propan-1-amine was separated into the two enantiomers by preparative SFC to yield the title compound. LCMS (MH+): m/z=468.0, tR (minutes, Method F)=2.84. [α]D20=+27.80 (c=3.41 mg/mL,CHCl3)

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(2-(difluoromethyl)pyrimidin-5-yl)-3-(1-(trifluoromethyl)cyclopropyl)propan-1-amine | FC(C1=NC=C(C=N1)C(CN)CC1(CC1)C(F)(F)F)F | C12H14F5N3
product | (+)-2,3-Dichloro-N-(2-(2-(difluoromethyl)pyrimidin-5-yl)-3-(1-(trifluoromethyl)cyclopropyl)propyl)benzamide | ClC1=C(C(=O)NCC(CC2(CC2)C(F)(F)F)C=2C=NC(=NC2)C(F)F)C=CC=C1Cl | C19H16Cl2F5N3O
